Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Erythromycin Base / nortriptyline / sertraline / Dilaudid
 
Attending: ___.
 
Chief Complaint:
bilateral pneumothorax, dyspnea and cough
 
Major Surgical or Invasive Procedure:
___ Pigtail catheter placement (at outside hospital)

 
History of Present Illness:
Ms. ___ is a ___ old woman with no significant history of
lung disease who presents as a transfer from the ___
for a finding of bilateral pneumothoraces. She developed a sinus
infection around ___ which was treated with 10days of
amoxicillin and after this, her symptoms resolved for around 1
week, after which she had recurrence of symptoms. She was then
prescribed 10days of Augmentin, which again helped with her
symptoms for about 1 week thereafter. Then around ___, she
developed a cough and started feeling subjective fevers and
chills, although she did not take her temperature at home. This
was accompanied by shortness of breath by ___, and on ___ 
she
went to an urgent care facility. Her lungs were reportedly clear
at this point, and she was sent home with flovent and Flonase.
She experienced progression of shortness of breath and
exacerbated cough: she could no longer walk across the room
without being short of breath, and her coughing began to produce
chest pain, so she presented to ___. She reportedly 
had
decreased breath sounds particularly on the right, and got a
chest x-ray, which showed bilateral "hydropneumothorax" worse on
the right. A right pigtail catheter was placed, and she was then
transferred to ___ for further care.
On evaluation in the ___, she still felt somewhat short of 
breath,
and she was experiencing significant pain on the right side by
the catheter. She otherwise has no significant cough, and no
longer feels fevers or chills. 
 
Past Medical History:
Hypothyroidism, depression, fibromyalgia, recurrent
bronchitis/PNA in the distant past

 
Social History:
___
Family History:
Mother- lymphoma 
 
Physical ___:
ADMISSION PHYSICAL EXAM:
=========================
T98.3, HR71, BP126/83, RR18, Sat99%RA
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:
HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Trachea midline [ ] Abnormal findings:
RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [x] No spine/CVAT
[ ] Abnormal findings:
CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:
GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[ ] Abnormal findings:
GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:
NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:
MS            
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[x] No tenderness  [x] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ ] Abnormal findings:
LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[x] Inguinal nl   [ ] Abnormal findings:
SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:
PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

DISCHARGE PHYSICAL EXAM:
=========================
VS: T 98.7, BP 118/77, HR 73, RR 18, O2 sat 98% RA
GEN: no acute distress, A&Ox3
NECK: supple, trachea midline, no palpable lymphadenopathy
CV: regular rate and rhythm, no murmurs, rubs or gallops
RESP: lungs clear to auscultation bilaterally, no 
crackles/wheezes/rhonchi. Right chest tube site with no drainage 
or surrounding erythema or fluctuance. No crepitus to right 
lateral chest wall. 
ABD: soft, non-tender, non-distended
EXT: warm and well perfused, no peripheral edema
 
Pertinent Results:
LABS:
=========
___ 04:55AM BLOOD WBC-4.9 RBC-4.16 Hgb-12.7 Hct-37.7 MCV-91 
MCH-30.5 MCHC-33.7 RDW-11.9 RDWSD-39.3 Plt ___
___ 07:35PM BLOOD WBC-7.2 RBC-4.47 Hgb-13.4 Hct-40.2 MCV-90 
MCH-30.0 MCHC-33.3 RDW-12.2 RDWSD-40.2 Plt ___
___ 07:35PM BLOOD Neuts-92.8* Lymphs-6.4* Monos-0.4* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-6.68* AbsLymp-0.46* 
AbsMono-0.03* AbsEos-0.00* AbsBaso-0.01
___ 04:55AM BLOOD ___ PTT-28.1 ___
___ 04:55AM BLOOD Glucose-87 UreaN-8 Creat-0.9 Na-138 K-3.7 
Cl-101 HCO3-25 AnGap-16
___ 07:35PM BLOOD Glucose-151* UreaN-10 Creat-1.0 Na-140 
K-3.9 Cl-106 HCO3-21* AnGap-17
___ 04:55AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.2

IMAGING:
==========
CXR     Date: ___ (~1PM)  [x] outside film
Impression: Bilateral hydropneumothoraces small on the left and
moderate on the right with partial collapse medial right lower
lobe. Underlying airspace disease within the right lower lung
zone not entirely excluded.  Clinical and radiographic follow-up
required.

Repeat CXR      Date: ___ (~4PM)  [x] outside film
Impression: Persistent moderate left pneumothorax.  A chest tube
is been inserted on the right and in the right lung is
re-expanded. Small pleural effusions.  Bibasilar atelectasis 
more
pronounced on the right.

Repeat CXR      Date ___ (8PM)
Impression:
1. Right-sided pigtail chest tube projecting over the right lung
apex in grossly appropriate position.  Persistent small right
apical pneumothorax. 
2. Persistent more moderate sized left apical pneumothorax is
slightly smaller in comparison earlier same-day chest x-ray from
16:06. 
 
      
___  CHEST (PORTABLE AP)
IMPRESSION: 
In comparison with the study of ___, the right apical 
pneumothorax has virtually cleared.  On the left, there is 
little change in the degree of pneumothorax. Little change in 
the appearance of the heart and lungs.
 
     
___  CT CHEST W/O CONTRAST
FINDINGS: 
 
NECK, THORACIC INLET, AXILLAE, CHEST WALL: Thyroid is 
homogeneous.  No
axillary or supraclavicular lymphadenopathy.
 
UPPER ABDOMEN: Status post cholecystectomy.  Otherwise, limited 
evaluation of the upper abdomen is unremarkable on this 
noncontrast study.
 
MEDIASTINUM: No lymphadenopathy or mass.
 
HILA: No lymphadenopathy.
 
HEART and PERICARDIUM: Heart size is normal.  No pericardial 
effusion.  No
coronary artery or valvular calcification.
PLEURA: Moderate left and small right pneumothorax.  A right 
thoracostomy
drain terminates in the right lung apex.  No pleural effusion.
LUNG:
1. PARENCHYMA:  No large bullae or cystic structures.  There are 
2 subpleural 0.5 cm cystic lesions in the right lung apex 
(___).  There are a few bullae along the lower medial right 
mediastinum (___) and a few subcentimeter blebs in the right 
lower lobe.  There is a subcentimeter bleb adjacent to the left 
major fissure (___) and a few subcentimeter blebs in the 
lingula and left lower lobe.  Consolidation in the bilateral 
lower lobes may represent atelectasis, aspiration or pneumonia.  
2 mm calcified granuloma in the right upper lobe (___).  No 
evidence of active or reactive infection.
2. AIRWAYS:  Patent to the subsegmental levels bilaterally.
3. VESSELS:  Pulmonary arteries are normal in size.  No evidence 
of pulmonary embolism on this non PE protocol study.
CHEST CAGE: Mild pectus carinatum.  No fractures or suspect 
osseous lesions.
 
IMPRESSION:
1. Moderate left and mild right pneumothorax.
2. Bibasilar consolidation may represent atelectasis, aspiration 
or pneumonia.
3. No large bullae or cystic structures.  There are 2 subpleural 
0.5 cm cystic lesions in the right lung apex.
       

___  CHEST (PORTABLE AP)
IMPRESSION: 
Small left apical pneumothorax has increase, the component of 
pneumothorax in the left base has decreased.  Small right 
pneumothorax is stable. 
Cardiomediastinal contours are midline.  Right apical pigtail 
catheter is in place.  Bibasilar atelectasis larger on the right 
side are grossly unchanged.  Small right effusion is stable.

___  CHEST (PA & LAT)
IMPRESSION: 
The right-sided pigtail pleural catheter has been removed.  
There is a
residual tiny right apical pneumothorax, stable.  A slightly 
larger small left apical pneumothorax appears unchanged from 
prior. There are again seen small bilateral effusions, right 
slightly greater than left.  Right-sided pleural effusion has 
decreased slightly in size from prior.  Heart size is within 
normal limits.  There are no focal consolidation.

 
Brief Hospital Course:
Ms. ___ is a ___ old woman with no significant history of 
lung disease who presents as a transfer from the ___ for a finding of bilateral spontaneous pneumothoraces on 
chest xray after presenting with a cough, URI symptoms, and 
increased dyspnea on exertion.

At ___ a pigtail catheter was placed on the right on 
___ and she was transferred to ___ for further care. 
After placement of pigtail catheter, her right lung was noted to 
re-expand. Throughout her hospital admission her vital signs 
were noted to be stable and serial chest xrays were performed 
which demonstrated stability of her left pneumothorax and 
improvement of her right pneumothorax following chest tube 
placement.

She was initially given PO dilaudid for pain to her chest tube 
site, however this caused her to vomit 3 times on hospital day 
2. Her pain medication was switched to TC#3, which she tolerated 
with no further emesis. She was also given zofran and ativan to 
help with her nausea. 

On hospital day 3 her right chest tube was pulled. On day of 
discharge her pain and nausea were controlled with PO 
medications and she was able to tolerate a regular diet without 
difficulty. She was able to ambulate and urinate normally. She 
was discharged home with a prescription for PO pain medications 
and instructions to follow up in clinic in ___. She 
demonstrated understanding and agreement with this plan. 
 
Medications on Admission:
Wellbutrin XL 300 mg 24 hr tablet, extended release (once a day)
Levoxyl 100 mcg tablet (once a day)
 
Discharge Medications:
1.  Acetaminophen w/Codeine ___ TAB PO Q6H:PRN Pain - Moderate 
Do not take if sedated 
RX *acetaminophen-codeine [Tylenol-Codeine #3] 300 mg-30 mg ___ 
tablet(s) by mouth q6h prn Disp #*40 Tablet Refills:*0 
2.  Ibuprofen 400 mg PO Q8H:PRN Headache 
RX *ibuprofen 400 mg 1 tablet(s) by mouth q8h prn Disp #*30 
Tablet Refills:*0 
3.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron [Zofran ODT] 4 mg 1 tablet(s) by mouth q8h prn 
Disp #*15 Tablet Refills:*0 
4.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
5.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Spontaneous Pneumothorax, bilateral

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung collapse (Bilateral 
Pneumothorax) and you've recovered well. You are now ready for 
discharge.

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your chest tube site daily and report any increased 
redness or drainage.   Cover the area with a gauze pad if it is 
draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
 * You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.

* No driving while taking narcotic pain medication.

* Take Tylenol with codeine for pain.  If your doctor allows you 
may also take Ibuprofen to help relieve the pain.

* Continue to stay well hydrated and eat well to heal your 
incisions

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
 * No tub bathing, swimming or hot tubs until incision healed
 * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ office at ___ if you experience 

-Temp > 101,  chills,  increased shortness of breath, chest pain 
or any other symptoms that concern you.

-Given that your lung collapse happened spontaneously, you are 
at risk for this happening again. At your follow up appointment 
Dr. ___ discuss with you possible surgical options 
for preventing spontaneous lung collapse given that you have had 
this happen on both of your lungs.
 
Followup Instructions:
___